US07192968B2
(1S,2R,4S)-N1-[(5-Chloro-4-fluoroindol-2-yl)carbonyl]-4-(N,N-dimethylcarbamoyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
(1S,2R,4S)-N2-(tert-Butoxycarbonyl)-N1-[(6-chloro-4-fluoroindol-2-yl)carbonyl]-4-(N,N-dimethylcarbamoyl)-1,2-cyclohexanediamine was treated with a 4N dioxane solution of hydrochloric acid and then condensed with lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate in a similar manner to Example 118 to obtain the title compound.

reactant | (1S,2R,4S)-N2-(tert-Butoxycarbonyl)-N1-[(6-chloro-4-fluoroindol-2-yl)carbonyl]-4-(N,N-dimethylcarbamoyl)-1,2-cyclohexanediamine | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CC[C@@H](C1)C(N(C)C)=O)NC(=O)C=1NC2=CC(=CC(=C2C1)F)Cl | C23H30ClFN4O4
reactant | hydrochloric acid | Cl | ClH
reactant | lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | (1S,2R,4S)-N1-[(5-Chloro-4-fluoroindol-2-yl)carbonyl]-4-(N,N-dimethylcarbamoyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | Cl.ClC=1C(=C2C=C(NC2=CC1)C(=O)N[C@@H]1[C@@H](C[C@H](CC1)C(N(C)C)=O)NC(=O)C=1SC=2CN(CCC2N1)C)F | InChI=1S/C26H30ClFN6O3S.ClH/c1-33(2)26(37)13-4-6-17(30-23(35)20-11-14-16(29-20)7-5-15(27)22(14)28)19(10-13)31-24(36)25-32-18-8-9-34(3)12-21(18)38-25;/h5,7,11,13,17,19,29H,4,6,8-10,12H2,1-3H3,(H,30,35)(H,31,36);1H/t13-,17-,19+;/m0./s1
